US06599925B2
Ethyl 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate
To an ice-cooled mixture of 1-[2-(6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone (1.01 g, 2.93 mmol) in DMF (10 mL) was added sodium hydride (0.21 g, 5.25 mmol of 60% dispersion on mineral oil). It was stirred for 50 minutes at room temperature then chilled in an ice bath. Ethyl bromoacetate (0.48 mL, 4.3 mmol) was added, and the reaction mixture was stirred at room temperature for one hour. The mixture was poured into excess water, acidified with 2N hydrochloric acid, and extracted with diethyl ether. The ethereal extract was washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography (Biotage apparatus) using 5-6% tert-butyl methyl ether in hexane as an eluant. The title compound was obtained as a yellow gum (0.749 g, 59%); 1HNMR (200 MHz, DMSO-d6): δ8.35 (s, 1H), 7.9-8.1 (m, 3H), 7.8-7.9 (m, 1H, 7.7-7.8 (m, 1H), 7.3-7.5 (m, 4H), 4.95 (s, 2H), 4.2 (q, 2H, J=7.2 Hz), 2.7 (t, 2H, J=7.6 Hz), 1.45-1.65 (m, 2H), 1.0-1.3 (m, 5H), and 0.7 ppm (t, 3H, J=7.6 Hz).

reactant | 1-[2-(6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone | 2.93 mmol, 1.01 g | OC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1C(CCCC)=O)C=CC=C2 | C23H20O3
reactant | sodium hydride | 5.25 mmol, 0.21 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 4.3 mmol, 0.48 mL | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate | C(CCCC)(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC(=O)OCC | C27H26O5
